US06835732B2
5-Methyl-thiophene-2-carboxylic acid [7-(2,3-dihydro-1H-indol-6-yl)-4-methoxy-benzothiazol-2-yl]-amide
The title compound was prepared from 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide (100 mg, 0.23 mmol) and 6-iodo-2,3-dihydro-1H-indole using the general procedure B in Example 54 as light brown crystals (26%), MS: m/e=422(M+H+).

reactant | 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide | 0.23 mmol, 100 mg | IC1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C14H11IN2O2S2
reactant | 6-iodo-2,3-dihydro-1H-indole | IC1=CC=C2CCNC2=C1 | C8H8IN
product | 5-Methyl-thiophene-2-carboxylic acid [7-(2,3-dihydro-1H-indol-6-yl)-4-methoxy-benzothiazol-2-yl]-amide | N1CCC2=CC=C(C=C12)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C22H19N3O2S2
